* Created by KLayout

* cell INV_X8
* pin A
* pin Y
* pin vdd
* pin gnd
.SUBCKT INV_X8 A Y vdd gnd
* device instance $1 r0 *1 6.1,44.8 PMOS
M$1 Y A vdd vdd PMOS L=1U W=10.2U AS=28.56P AD=15.3P PS=26U PD=13.2U
* device instance $2 r0 *1 10.1,44.8 PMOS
M$2 vdd A Y vdd PMOS L=1U W=10.2U AS=15.3P AD=15.3P PS=13.2U PD=13.2U
* device instance $3 r0 *1 14.1,44.8 PMOS
M$3 Y A vdd vdd PMOS L=1U W=10.2U AS=15.3P AD=15.3P PS=13.2U PD=13.2U
* device instance $4 r0 *1 18.1,44.8 PMOS
M$4 vdd A Y vdd PMOS L=1U W=10.2U AS=15.3P AD=15.3P PS=13.2U PD=13.2U
* device instance $5 r0 *1 22.1,44.8 PMOS
M$5 Y A vdd vdd PMOS L=1U W=10.2U AS=15.3P AD=15.3P PS=13.2U PD=13.2U
* device instance $6 r0 *1 26.1,44.8 PMOS
M$6 vdd A Y vdd PMOS L=1U W=10.2U AS=15.3P AD=15.3P PS=13.2U PD=13.2U
* device instance $7 r0 *1 30.1,44.8 PMOS
M$7 Y A vdd vdd PMOS L=1U W=10.2U AS=15.3P AD=15.3P PS=13.2U PD=13.2U
* device instance $8 r0 *1 34.1,44.8 PMOS
M$8 vdd A Y vdd PMOS L=1U W=10.2U AS=15.3P AD=28.56P PS=13.2U PD=26U
* device instance $9 r0 *1 6.1,6.8 NMOS
M$9 Y A gnd gnd NMOS L=1U W=3.4U AS=9.52P AD=5.1P PS=12.4U PD=6.4U
* device instance $10 r0 *1 10.1,6.8 NMOS
M$10 gnd A Y gnd NMOS L=1U W=3.4U AS=5.1P AD=5.1P PS=6.4U PD=6.4U
* device instance $11 r0 *1 14.1,6.8 NMOS
M$11 Y A gnd gnd NMOS L=1U W=3.4U AS=5.1P AD=5.1P PS=6.4U PD=6.4U
* device instance $12 r0 *1 18.1,6.8 NMOS
M$12 gnd A Y gnd NMOS L=1U W=3.4U AS=5.1P AD=5.1P PS=6.4U PD=6.4U
* device instance $13 r0 *1 22.1,6.8 NMOS
M$13 Y A gnd gnd NMOS L=1U W=3.4U AS=5.1P AD=5.1P PS=6.4U PD=6.4U
* device instance $14 r0 *1 26.1,6.8 NMOS
M$14 gnd A Y gnd NMOS L=1U W=3.4U AS=5.1P AD=5.1P PS=6.4U PD=6.4U
* device instance $15 r0 *1 30.1,6.8 NMOS
M$15 Y A gnd gnd NMOS L=1U W=3.4U AS=5.1P AD=5.1P PS=6.4U PD=6.4U
* device instance $16 r0 *1 34.1,6.8 NMOS
M$16 gnd A Y gnd NMOS L=1U W=3.4U AS=5.1P AD=9.52P PS=6.4U PD=12.4U
.ENDS INV_X8
